US07186729B2
Step 3: 3-[(4-Chloro-benzyl)-pyrrolidin-3-yl-amino]-propionic acid methyl ester
A solution of 3-[(4-chloro-benzyl)-(2-methoxycarbonyl-ethyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.08 g, 0.2 mmol) in dichloromethane cooled at 0° C. was treated with trifluoroacetic acid (20%). The resulting mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The combined organics were dried over sodium sulfate. The product was used without any further purification. ESI-MS m/z: 297 (M+1), UV retention time: 1.05 min.

reactant | 3-[(4-chloro-benzyl)-(2-methoxycarbonyl-ethyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.2 mmol, 0.08 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(CCC(=O)OC)CC1=CC=C(C=C1)Cl | C20H29ClN2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[(4-Chloro-benzyl)-pyrrolidin-3-yl-amino]-propionic acid methyl ester | COC(CCN(C1CNCC1)CC1=CC=C(C=C1)Cl)=O | C15H21ClN2O2
